US04611060
Methyl isocyanate (0.41 g) was added to a solution of 4-(6-chlorobenzothiazol-2-ylthio)-aniline (2.0 g) in pyridine (20 ml), with stirring. The mixture was stirred at room temperature for 12 hours and evaporated to dryness. The residue was dissolved in a minimal volume of boiling ethanol and the solution was cooled in a refrigerator. The resulting solid substance was collected by filtration and dried to give N-[4-(6-chlorobenzothiazol-2-ylthio)phenyl]-N'-methylurea (1.5 g), which had a melting point of 289°-291° C. This urea (1.4 g) was dissolved in 1,4-dioxane (50 ml), and chlorocarbonyl isocyanate (0.47 g) was added. The mixture was heated at the boiling point for 5 hours and evaporated to dryness. The solid residue was dissolved in a minimal volume of boiling ethanol and the solution was cooled in a refrigerator. The resulting solid substance was collected by filtration and dried to give 1.3 g of 1-[4-(6-chlorobenzothiazol-2-y(thio)phenyl]-3-methyl-1,3,5-triazine-2,4,6(1H,3H,5H)-trione of melting point 232°-233° C.

reactant | Methyl isocyanate | 0.41 g | CN=C=O | C2H3NO
reactant | 4-(6-chlorobenzothiazol-2-ylthio)-aniline | 2.0 g | ClC1=CC2=C(N=C(S2)SC2=CC=C(N)C=C2)C=C1 | C13H9ClN2S2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(6-chlorobenzothiazol-2-ylthio)phenyl]-N'-methylurea | 1.5 g | ClC1=CC2=C(N=C(S2)SC2=CC=C(C=C2)NC(=O)NC)C=C1 | C15H12ClN3OS2
